US06825191B2
Synthesis of 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-8-isopropoxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on
22 mg (0.044 mmol) of 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-8-hydroxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on was dissolved in 5 ml of THF. 15 mg (0.05 mmol) of triphenylphosphine, 0.004 ml (0.05 mmol) of isopropyl alcohol and 25 mg (0.05 mmol) of diethylazo dicarboxylate were added to the obtained solution, and they were stirred at room temperature overnight. After the treatment with ethyl acetate as the extracting solvent, the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-8-hydroxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | 0.044 mmol, 22 mg | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C28H24ClN3O4
reactant | triphenylphosphine | 0.05 mmol, 15 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isopropyl alcohol | 0.05 mmol, 0.004 ml | C(C)(C)O | C3H8O
reactant | diethylazo dicarboxylate | 0.05 mmol, 25 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-8-isopropoxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)OC(C)C)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C31H30ClN3O4
